US07812040B2
2-Methoxy-4-(pyrrolidin-1-ylmethyl)phenol.
NaB(OAc)3H (8.7 g, 0.041 mol) was added in portions for 30 min to a mixture of pyrrolidine (3.4 mL, 0.041 mol) and vanillin (5 g, 0.033 mol) in CH2Cl2 (50 mL) under vigorous stirring and cooling with an ice bath in an atmosphere of argon. The mixture was stirred for 2 h and cooled. Then 10 N NaOH (4.1 mL) and water (30 mL) were added. The organic layer was separated; the aqueous one was extracted with chloroform (2×50 mL). The organic fractions were evaporated. The residue was distributed between water and CH2Cl2. Concentrated HCl (2.98 mL) was added. The organic layer was separated and discarded. The aqueous one was alkalized with 10 N NaOH to pH 6 and extracted with chloroform (2×100 mL). The combined extracts were dried with Na2SO4, and evaporated to give the title compound (5.1 g, 75%) was obtained as white crystals. 1H-NMR (400 MHz)-data (dmso-d6): 8.72 (s, 1H ArOH), 6.81-6.84 (m, 1H, Ar—H), 6.64-6.70 (m, 2H, Ar—H), 3.74 (s, 3H, ArOCH3), 3.43 (s, 2H, ArCH2), 2.36-2.41 (m, 4H, pyrrolidine (CH2)2N), 1.64-1.70 (m, 4H, CH2CH2CH2CH2).

reactant | NaB(OAc)3H | 0.041 mol, 8.7 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | pyrrolidine | 0.041 mol, 3.4 mL | N1CCCC1 | C4H9N
reactant | vanillin | 0.033 mol, 5 g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | NaOH | 10 N, 4.1 mL | [OH-].[Na+]
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | water | 30 mL | O | H2O
product | 2-Methoxy-4-(pyrrolidin-1-ylmethyl)phenol | 5.1 g, 75% | COC1=C(C=CC(=C1)CN1CCCC1)O | C12H17NO2
